US04011326
Fuming red nitric acid (150 ml.) was cooled to 2° C. and 27.3 g. of 5,6,7,8-tetrahydronaphthalene-1-carboxylic acid was added portionwise over 0.5 hour with stirring maintaining the temperature at 2°-6° C. After another 45 minutes at about 5° C. the mixture was poured into 1500 ml. of crushed ice. The precipitate was collected and washed well with 5 × 500 ml. portions of water. The dried precipitate was heated with about 200 ml. of benzene. The insoluble material was collected and recrystallized from ethyl acetate to give 3-nitro-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid, m.p. 209°-212° C.

reactant | 5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | C1(=CC=CC=2CCCCC12)C(=O)O | C11H12O2
reactant | nitric acid | 150 ml | [N+](=O)(O)[O-] | HNO3
product | 3-nitro-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | [N+](=O)([O-])C=1C=C(C=2CCCCC2C1)C(=O)O | C11H11NO4
